US06743787B2
[Butyl-(4-{4-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-piperidin-1-yl}-benzenesulfonyl)-amino]-acetic acid ethyl ester
The title compound was prepared according to the procedure of Example 1 from 1.03 g (2.6 mmol) of Reference Example 43, {butyl-[4-(4-oxo-piperidin-1-yl)-benzenesulfonyl]-amino}-acetic acid ethyl ester, and 0.77 g (3.1 mmol) of (R)-N-[5-(2-amino-1-hydroxy-ethyl)-2-hydroxy-phenyl}-methanesulfonamide, yielding 1.05 g of a light yellow solid; m.p. 94-95° C.; MS (ES) m/z 627.2 (MH+); HRMS (ES) Calcd. for C28H43N4O8S2 (MH+): 627.2517, Found: 627.2505.

reactant | {butyl-[4-(4-oxo-piperidin-1-yl)-benzenesulfonyl]-amino}-acetic acid ethyl ester | C(C)OC(CN(S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O)CCCC)=O | C19H28N2O5S
reactant | (R)-N-[5-(2-amino-1-hydroxy-ethyl)-2-hydroxy-phenyl}-methanesulfonamide | 3.1 mmol, 0.77 g | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
product | [Butyl-(4-{4-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-piperidin-1-yl}-benzenesulfonyl)-amino]-acetic acid ethyl ester | C(C)OC(CN(S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O)CCCC)=O | C28H42N4O8S2
